US04764522
3.0 g of N-(2-hydroxyethyl)pyridine-2-carboxamide were placed in a round flask with 20 ml of methylene chloride and 2.5 ml of triethylamine and the mixture was cooled to 0°-5°. A solution of 1.4 ml of methanesulfochloride in 30 ml of methylene chloride was added dropwise thereto while cooling well at 0°-5°. The reaction mixture was stirred at 0°-5° for a further 2 hours and thereafter added dropwise at 0°-5° to 30 ml of concentrated (25%) ammonia. The reaction mixture was stirred at room temperature overnight and thereafter concentrated under reduced pressure. The residue was dissolved in methylene chloride, extracted with 2N hydrochloric acid and washed with water. The aqueous extracts were combined, made basic with concentrated (28%) sodium hydroxide solution and extracted 3 times with methylene chloride. The organic extracts were dried over magnesium sulfate, filtered and evaporated. There was obtained a yellow oil which was chromatographed on silica gel for further purification. As the elution agent there was used firstly ethyl acetate, thereafter an ethyl acetate/alcohol mixture and finally alcohol. There was obtained N-(2-aminoethyl)pyridine-2-carboxamide which, in accordance with thin-layer chromatography, was identical with the compound described in Example 1.

reactant | N-(2-hydroxyethyl)pyridine-2-carboxamide | 3.0 g | OCCNC(=O)C1=NC=CC=C1 | C8H10N2O2
reactant | triethylamine | 2.5 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N-(2-aminoethyl)pyridine-2-carboxamide | NCCNC(=O)C1=NC=CC=C1 | C8H11N3O
